US09428528B2
Preparation of N-((1R,2S)-1-(4-(6-((1H-imidazol-1-yl)methyl)-pyridin-3-yl)phenyl)-3-fluoro-1-hydroxypropan-2-yl)-2,2-dichloroacetamide
Following the general procedure of Example 6—Step 4 and making non-critical variations but using 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(trimethyl-stannyl)phenyl)propan-2-yl)acetamide and commercially available 2-((1H-imidazol-1-yl)methyl)-5-bromopyridine the title compound is obtained (20 mg): 1H-NMR (400 MHz, DMSO-d6) 4.21-4.24 (m, 1H), 4.27-40.31 (m, 0.5H), 4.38-4.42 (m, 0.5H), 4.55-4.59 (m, 0.5H), 4.67-4.70 (m, 0.5H), 4.89 (t, J=3.6 Hz, 1H), 5.33 (s, 2H), 5.99 (d, J=4.16 Hz, 1H), 6.51 (s, 1H), 6.92 (s, 1H), 7.22 (t, J=3.84 Hz, 2H), 7.46 (d, J=8.2 Hz, 2H), 7.67 (d, J=8.28 Hz, 2H), 7.77 (s, 1H), 8.06-8.08 (d, d J=2.36 Hz, J=8.08 Hz, 1H), 8.63 (d, J=8.84 Hz, 1H), 8.84 (d, J=2.2 Hz, 1H). LC-Ms (m/z): [M+H]=437.1.

reactant | 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(trimethyl-stannyl)phenyl)propan-2-yl)acetamide | ClC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)[Sn](C)(C)C)O)CF)Cl
reactant | 2-((1H-imidazol-1-yl)methyl)-5-bromopyridine | N1(C=NC=C1)CC1=NC=C(C=C1)Br | C9H8BrN3
product | N-((1R,2S)-1-(4-(6-((1H-imidazol-1-yl)methyl)-pyridin-3-yl)phenyl)-3-fluoro-1-hydroxypropan-2-yl)-2,2-dichloroacetamide | N1(C=NC=C1)CC1=CC=C(C=N1)C1=CC=C(C=C1)[C@H]([C@@H](CF)NC(C(Cl)Cl)=O)O | C20H19Cl2FN4O2
